US06063782
1-Cyclopropylmethyl-5-[3-(4-fluorophenyl)propionyl]-2,3-dimethylpyrrole
The title compound was prepared as a pale yellow oil in 64.8% yield in a similar procedure to that described in Referential Example 97 by using 5-[3-(4-fluorophenyl)propionyl]-2,3-dimethylpyrrole and cyclopropylmethyl bromide.

reactant | 5-[3-(4-fluorophenyl)propionyl]-2,3-dimethylpyrrole | FC1=CC=C(C=C1)CCC(=O)C1=CC(=C(N1)C)C | C15H16FNO
reactant | cyclopropylmethyl bromide | C1(CC1)CBr | C4H7Br
product | 1-Cyclopropylmethyl-5-[3-(4-fluorophenyl)propionyl]-2,3-dimethylpyrrole | 64.8% yield | C1(CC1)CN1C(=C(C=C1C(CCC1=CC=C(C=C1)F)=O)C)C | C19H22FNO
